US09340549B2
To a flask charged with 1-(1,4-dioxaspiro[4.5]decan-8-yl)-1H-benzo[d]imidazol-2(3H)-one (1.100 g, 4.01 mmol) were added acetone (7.29 mL) and water (0.729 mL) followed by PPTS (1.310 g, 5.21 mmol). The resulting light brown solution was heated at reflux overnight. Water was then added to the mixture leading to an oiling out of the organics. The mixture was transferred to a separatory funnel and extracted with EtOAc (2×). The combined organic layers were dried with Na2SO4, filtered, and dried under reduced pressure. The oil thus obtained was purified with a 50 g SNAP column (Biotage) ramping DCM:MeOH:NH4OH (90:10:1) in DCM from 0-35% leading to coelution of product and starting material. The mixture was used in the next step without further purification. The mixture containing 1-(4-oxocyclohexyl)-1H-benzo[d]imidazol-2(3H)-one (0.685 g, 2.97 mmol, 74.2% yield) was obtained as a brown foam. m/z (ESI) 231.2 (M+H)+.

reactant | 1-(1,4-dioxaspiro[4.5]decan-8-yl)-1H-benzo[d]imidazol-2(3H)-one | 4.01 mmol, 1.100 g | O1CCOC12CCC(CC2)N2C(NC1=C2C=CC=C1)=O | C15H18N2O3
reactant | acetone | 7.29 mL | CC(=O)C | C3H6O
reactant | PPTS | 5.21 mmol, 1.310 g | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
solvent | Water | O | H2O
solvent | water | 0.729 mL | O | H2O
product | 1-(4-oxocyclohexyl)-1H-benzo[d]imidazol-2(3H)-one | 2.97 mmol, 0.685 g, 74.2% yield | O=C1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C13H14N2O2
